US05760032
3-Aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole di-p-toluenesulfonate (3.70 g) was dissolved in dimethylformamide (20 ml). Naphthalene-2-carboxylic acid (0.95 g) and diphenylphosphoryl azide (1.29 ml) were added under ice-cooling and dissolved in the solution. A solution of triethylamine (2.24 ml) in dimethylformamide was dropwise added, and the mixture was allowed to stand overnight at room temperature. Then, a 10% aqueous citric acid solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over magnesium sulfate. The solvent was evaporated, and the residue was recrystallized from ethyl acetate to give 0.53 g of N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)naphthalene-2-caboxamide.

reactant | 3-Aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole di-p-toluenesulfonate | 3.70 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(=CC=C(C=C1)S(=O)(=O)O)C.NCC1=NN=C(N1C=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC)C
reactant | Naphthalene-2-carboxylic acid | 0.95 g | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | diphenylphosphoryl azide | 1.29 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 2.24 ml | C(C)N(CC)CC | C6H15N
product | N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)naphthalene-2-caboxamide | 0.53 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C)CNC(=O)C2=CC3=CC=CC=C3C=C2)C=CC=C1 | C28H23ClN4O2S
